US06573218B1
Preparation of 4-Amino-7-chloro-2-ethyl-5-fluorobenzoxazole (Compound no. 14-3)
2-Amino-6-chloro-4-fluorophenol (3 g) was dissolved in m-xylene (150 ml) containing propionyl chloride (2.05 g), triethylamine (2.24 g) and pyridinium p-toluenesulfonate (2.8 g). The mixture was refluxed under N2 for 4 hours, then cooled to room temperature and passed through a silica gel column eluted with a mixture of hexane and ether (5:1) to yield the title compound as a pale-brown solid (2.85 g). 1H-NMR (CDCl3, 300 MHz): 1.45(3H, t, J=7.6 Hz), 2.98(2H, q, J=7.6 Hz), 7.07(1 H, dd, J=2.3 Hz, 9.2 Hz), 7.27(1 H, dd, J=2.4 Hz, 8.1 Hz) ppm.

reactant | 2-Amino-6-chloro-4-fluorophenol | 3 g | NC1=C(C(=CC(=C1)F)Cl)O | C6H5ClFNO
reactant | propionyl chloride | 2.05 g | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 2.24 g | C(C)N(CC)CC | C6H15N
reactant | pyridinium p-toluenesulfonate | 2.8 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | m-xylene | 150 ml | C1(=CC(=CC=C1)C)C | C8H10
product | 4-Amino-7-chloro-2-ethyl-5-fluorobenzoxazole | 2.85 g | NC1=C(C=C(C2=C1N=C(O2)CC)Cl)F | C9H8ClFN2O
